US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-2-(hydroxymethyl)pyrrolidin-1-yl)methyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate (0.75 g, 1.53 mmol) was reacted with (S)-pyrrolidin-2-ylmethanol hydrochloride (0.21 g, 1.53 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (0.25 g, 32%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.75 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NNC=N1 | C16H14Br2FN5O2
reactant | (S)-pyrrolidin-2-ylmethanol hydrochloride | 1.53 mmol, 0.21 g | Cl.N1[C@@H](CCC1)CO
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-2-(hydroxymethyl)pyrrolidin-1-yl)methyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.25 g, 32% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1[C@@H](CCC1)CO)C1=NNC=N1 | C21H24BrFN6O3
